US04654352
Preparation of 3-phenylbenzo[b]thiophene-2-carboxaldehyde
Butyllithium (62.5 ml of 1.6M solution in hexane, 0.1 mole) was added dropwise to a stirred solution of 3-phenylbenzo[b]thiophene (21.0 g, 0.1 mole) in tetrahydrofuran (150 ml) at -70° C. The solution was stirred at -70° C. for 30 minutes and dimethylformamide (10 ml, 0.13 mole) was added. The resulting mixture was stirred at -70° C. for 30 minutes and then allowed to warm to ambient temperature. After a further hour the reaction was quenched by the addition of dilute hydrochloric acid (100 ml, 2M) and the tetrahydrofuran removed under reduced pressure. The resulting oil was extracted into diethyl ether, the ethereal extract washed with water, dried over potassium carbonate and concentrated.

reactant | Butyllithium | 0.1 mole, 1.6M, 62.5 ml | C(CCC)[Li]
reactant | 3-phenylbenzo[b]thiophene | 0.1 mole, 21.0 g | C1(=CC=CC=C1)C=1C2=C(SC1)C=CC=C2 | C14H10S
reactant | dimethylformamide | 0.13 mole, 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-phenylbenzo[b]thiophene-2-carboxaldehyde | C1(=CC=CC=C1)C=1C2=C(SC1C=O)C=CC=C2 | C15H10OS
